US06432963B1
In ethanol in which sodium had been dissolved, ethyl 3-ethoxy-2-[(3-methoxyphenyl)acetyl]acrylate and methylisothiourea sulfate were reacted under heat reflux to obtain ethyl 2-methylsulfanyl-4-(3-methoxybenzyl)pyrimidine-5-carboxylate (yellow oil).

reactant | ethyl 3-ethoxy-2-[(3-methoxyphenyl)acetyl]acrylate | C(C)OC=C(C(=O)OCC)C(CC1=CC(=CC=C1)OC)=O | C16H20O5
reactant | methylisothiourea sulfate | S(=O)(=O)(O)O.CNC(S)=N
reactant | ethanol | C(C)O | C2H6O
solvent | sodium | [Na] | Na
product | ethyl 2-methylsulfanyl-4-(3-methoxybenzyl)pyrimidine-5-carboxylate | CSC1=NC=C(C(=N1)CC1=CC(=CC=C1)OC)C(=O)OCC | C16H18N2O3S
